### PR TITLE
chore: few TODOs resolved

### PR DESCRIPTION
**Pull request by madvorak**

### CODE REVIEW

File: Carleson/Classical/CarlesonOperatorReal.lean [hunk 1]
```diff
@@ -182,33 +189,32 @@ lemma carlesonOperatorReal_measurable {f : ℝ → ℂ} (f_measurable : Measurab
...
       rw [ae_iff]
       exact measure_mono_null subset_finite (Finset.measure_zero _ _)
     · exact Filter.Eventually.of_forall fun r ↦ ((Measurable.of_uncurry_left
         (measurable_mul_kernel f_measurable)).indicator annulus_measurableSet).aestronglyMeasurable
-  rw [this]
-  apply Measurable.biSup _
-  · apply Set.Countable.mono Set.inter_subset_right hQ.2
-  intro r _
+  rw [hGr]
+  refine Measurable.biSup _ (Set.Countable.mono Set.inter_subset_right Qᵣ_countable) (fun r _ ↦ ?_)
```
Comment (grunweg) [inline Carleson/Classical/CarlesonOperatorReal.lean:217]:
```suggestion
  refine Measurable.biSup _ (Qᵣ_countable.mono Set.inter_subset_right) (fun r _ ↦ ?_)

File: Carleson/Classical/CarlesonOperatorReal.lean [hunk 2]
```diff
@@ -182,33 +189,32 @@ lemma carlesonOperatorReal_measurable {f : ℝ → ℂ} (f_measurable : Measurab
...
-      have contOn : ∀ y, ∀ t ≠ dist x y, ContinuousAt (fun s ↦ F x s y) t := by
+      have contOn : ∀ y, ∀ t ≠ dist x y, ContinuousAt (F x · y) t := by
         intro y t ht
         by_cases h : t < dist x y
         · exact_mod_cast (contOn1 y).continuousAt (Iio_mem_nhds h)
         · push_neg at h
           exact ContinuousOn.continuousAt (contOn2 y) (Ioi_mem_nhds
             ((min_le_left _ _).trans_lt (lt_of_le_of_ne h ht.symm)))
-      have subset_finite : {y | ¬ContinuousAt (fun s ↦ F x s y) r} ⊆ ({x - r, x + r} : Finset ℝ) := by
+      have subset_finite :
```
Comment (grunweg) [inline Carleson/Classical/CarlesonOperatorReal.lean:199]: FWIW, I'm not convinced this line break is necessary.

File: Carleson/Classical/CarlesonOperatorReal.lean [hunk 3]
```diff
@@ -55,61 +55,69 @@ lemma measurable_mul_kernel {n : ℤ} {f : ℝ → ℂ} (hf : Measurable f) :
...
+  rw [hFG]
+  have hGr : (⨆ (r ∈ Set.Ioo 0 1), G · r) = (⨆ (r ∈ (Set.Ioo 0 1) ∩ Qᵣ), G · r) := by
     ext x
-    rw [sup_eq_sup_dense_of_continuous Q isOpen_Ioo hQ.1]
-    refine fun r hr ↦ ContinuousAt.continuousWithinAt (ContinuousAt.comp (Continuous.continuousAt
-      (EReal.continuous_coe_ennreal_iff.mp (EReal.continuous_coe_iff.mpr
-      (continuous_iff_le_induced.mpr fun U a ↦ a)))) (ContinuousAt.nnnorm ?_))
+    rw [sup_eq_sup_dense_of_continuous Qᵣ isOpen_Ioo Qᵣ_dense]
+    refine fun r ⟨hr, _⟩ ↦
+      ContinuousAt.continuousWithinAt (ContinuousAt.comp (Continuous.continuousAt
```
Comment (grunweg) [inline Carleson/Classical/CarlesonOperatorReal.lean]: This is pre-existing: would you like to refactor this even more to use dot notation better?

File: Carleson/Classical/CarlesonOperatorReal.lean [hunk 4]
```diff
@@ -55,61 +55,69 @@ lemma measurable_mul_kernel {n : ℤ} {f : ℝ → ℂ} (hf : Measurable f) :
       ((hf.comp measurable_snd).mul Hilbert_kernel_measurable).mul
   (measurable_const.mul (Complex.measurable_ofReal.comp measurable_snd)).cexp
 
-local notation "T" => carlesonOperatorReal K
+/-- Rationals as a set of real numbers. -/
+private def Qᵣ : Set ℝ := Rat.cast '' Set.univ
+
+/-- Rationals are dense in reals. -/
+private lemma Qᵣ_dense : Dense Qᵣ :=
+  (IsDenseEmbedding.dense_image Rat.isDenseEmbedding_coe_real).mpr dense_univ
```
Comment (grunweg) [inline Carleson/Classical/CarlesonOperatorReal.lean]:
```suggestion
  Rat.isDenseEmbedding_coe_real.dense_image.mpr dense_univ

File: Carleson/Classical/CarlesonOperatorReal.lean [hunk 5]
```diff
@@ -55,61 +55,69 @@ lemma measurable_mul_kernel {n : ℤ} {f : ℝ → ℂ} (hf : Measurable f) :
       ((hf.comp measurable_snd).mul Hilbert_kernel_measurable).mul
   (measurable_const.mul (Complex.measurable_ofReal.comp measurable_snd)).cexp
 
-local notation "T" => carlesonOperatorReal K
+/-- Rationals as a set of real numbers. -/
+private def Qᵣ : Set ℝ := Rat.cast '' Set.univ
```
Comment (grunweg) [inline Carleson/Classical/CarlesonOperatorReal.lean:59]: Do you need this private definition? Can you inline it instead? It's relatively short and only used twice, if I see correctly.

**Review by grunweg — COMMENTED** [review]
Thanks for the PR. I've left a few comments where this PR could clean up even more. Some of these are subjective, others can certainly happy in a future PR.
Can you fix the linter error in HardyLittlewood, please?

File: Carleson/Classical/CarlesonOperatorReal.lean (hunk 5 above)
Comment (madvorak) [reply Carleson/Classical/CarlesonOperatorReal.lean:59]: It was inlined and I pulled it out of the proof as the proof was very long and this piece could be proved independently. However, as you say, both lemmas it appears in are used only once.

File: Carleson/Classical/CarlesonOperatorReal.lean (hunk 2 above)
Comment (madvorak) [reply Carleson/Classical/CarlesonOperatorReal.lean:199]: Should I follow the vertical ruler?

File: Carleson/Classical/CarlesonOperatorReal.lean (hunk 5 above)
Comment (grunweg) [reply Carleson/Classical/CarlesonOperatorReal.lean:59]: I think pulling out these separate lemmas seems useful. I don't think the definition needs to be pulled out, though.

File: Carleson/Classical/CarlesonOperatorReal.lean (hunk 2 above)
Comment (grunweg) [reply Carleson/Classical/CarlesonOperatorReal.lean:199]: Yes, you should. Right, it's above 100 characters (I didn't check before). Ignore my comment, please.

File: Carleson/Classical/CarlesonOperatorReal.lean (hunk 5 above)
Comment (madvorak) [reply Carleson/Classical/CarlesonOperatorReal.lean:59]: I realized it gets too long without the private definition. I will keep it as is; change it if you strongly feel against it.

**Comment by madvorak** [comment]
@grunweg I don't see any linter error in HardyLittlewood.

File: Carleson/Classical/CarlesonOperatorReal.lean (hunk 5 above)
Comment (grunweg) [reply Carleson/Classical/CarlesonOperatorReal.lean:59]: I don't feel *strongly*.

**Comment by grunweg** [comment]
CI passes, so let's merge. Thanks again for your PR!
